US05334716
To a mixture of ethyl 4-[1-(4-methoxybenzoyl)-indolizin-3-yl]butyrate (640 mg) and ethanethiol (2.5 ml) in dichloromethane (8 ml) was added aluminum chloride (700 mg) at 0° C. After stirred at 0° C. for 10 minutes, the solvent was evaporated and the residue was poured into a mixture of ethyl acetate and ice-water. The organic layer was separated, washed with aqueous sodium bicarbonate and brine, dried over magnesium sulfate and evaporated. The residue was chromatographed on silica gel column eluting with a mixture of chloroform and ethyl acetate (4:1) to give ethyl 4-[1-(4-hydroxybenzoyl)indolizin-3-yl]butyrate (344 mg) as yellow solid.

reactant | ethyl 4-[1-(4-methoxybenzoyl)-indolizin-3-yl]butyrate | 640 mg | COC1=CC=C(C(=O)C=2C=C(N3C=CC=CC23)CCCC(=O)OCC)C=C1 | C22H23NO4
reactant | ethanethiol | 2.5 ml | C(C)S | C2H6S
reactant | aluminum chloride | 700 mg | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | ethyl 4-[1-(4-hydroxybenzoyl)indolizin-3-yl]butyrate | 344 mg | OC1=CC=C(C(=O)C=2C=C(N3C=CC=CC23)CCCC(=O)OCC)C=C1 | C21H21NO4
